US07943607B2
3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-5-[(3-methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-N-1H-pyrazol-3-ylbenzamide
Trifluoroacetic acid (2 mL) was added to a solution of 1,1-dimethylethyl 3-[({3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(3-methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate (190 mg, 0.34 mmol) in DCM (12 mL) and stirred at RT for 2 hours. The solvent was removed in vacuo and DCM (20 mL) added and the mixture washed with water (20 mL), saturated sodium bicarbonate solution (20 mL), brine (20 mL), dried (MgSO4), and reduced in vacuo to give the desired compound as a white solid (54 mg). 1H NMR δ (CDCl3): 1.32 (d, 3H), 3.09 (s, 3H), 3.40 (s, 3H), 3.47-3.63 (m, 2H), 4.56-4.63 (m, 1H), 5.16 (s, 2H), 6.52 (d, 1H), 6.71-6.74 (m, 1H), 6.81 (t, 1H), 6.85 (s, 1H), 7.18 (s, 1H), 7.37 (s, 1H), 7.49 (s, 1H), 7.92 (d, 1H), 9.46 (s, 1H), 9.46 (s, 1H); m/z 453 (M+H)+

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl 3-[({3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(3-methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate | 0.34 mmol, 190 mg | C[C@@H](COC)OC=1C=C(C=C(C1)OC1=CC2=C(C(N(CO2)C)=O)C=C1)C(=O)NC1=NN(C=C1)C(=O)OC(C)(C)C | C28H32N4O8
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-5-[(3-methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-N-1H-pyrazol-3-ylbenzamide | 54 mg | C[C@@H](COC)OC=1C=C(C(=O)NC2=NNC=C2)C=C(C1)OC1=CC2=C(C(N(CO2)C)=O)C=C1 | C23H24N4O6
